US05302724
Preparation of 3-methyl-N-[[(4-chlorophenyl)amino]carbonyl]-2-thiophenesulfonamide
The procedure of Example 4B was followed with the 3-methyl-2-thiophenesulfonamide (1.6 g, 9.0 mmole), 1N NaOH (9.0 ml), acetone (10 ml), 4-chlorophenyl isocyanate (1.4 g, 9.2 mmole), 1N HCl (9.5 ml) to provide the named product (1.7 g).

reactant | 3-methyl-2-thiophenesulfonamide | 9.0 mmole, 1.6 g | CC1=C(SC=C1)S(=O)(=O)N | C5H7NO2S2
reactant | NaOH | 1N, 9.0 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 9.2 mmole, 1.4 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | HCl | 1N, 9.5 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-methyl-N-[[(4-chlorophenyl)amino]carbonyl]-2-thiophenesulfonamide | 1.7 g | CC1=C(SC=C1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)Cl | C12H11ClN2O3S2
